US04980349
b) Preparation of 11-[2-(2-chlorobenzoyl)-4-chlorobenzenesulphonamido]undecanamide
A solution of 2 g of 11-[2-(2-chlorobenzoyl)-4-chlorobenzenesulphonamido]undecanoic acid chloride in 15 ml of anhydrous benzene is saturated with ammonia at 10° C. After stirring for two hours, the reaction medium is evaporated to dryness under vacuum, the residue is taken up with water and then extracted with ethyl acetate. After evaporation, the organic phase gives crystals which are recrystallized in benzene (1.22 g).

reactant | 11-[2-(2-chlorobenzoyl)-4-chlorobenzenesulphonamido]undecanoic acid chloride | 2 g | ClC1=C(C(=O)C2=C(C=CC(=C2)Cl)S(=O)(=O)NCCCCCCCCCCC(=O)Cl)C=CC=C1 | C24H28Cl3NO4S
reactant | ammonia | N | H3N
solvent | benzene | 15 ml | C1=CC=CC=C1 | C6H6
product | 11-[2-(2-chlorobenzoyl)-4-chlorobenzenesulphonamido]undecanamide | ClC1=C(C(=O)C2=C(C=CC(=C2)Cl)S(=O)(=O)NCCCCCCCCCCC(=O)N)C=CC=C1 | C24H30Cl2N2O4S
